US09079866B2
5-{2′-[(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 4-((2-bromophenyl)sulfonyl)tetrahydro-2H-thiopyran 1,1-dioxide. MS (ESI): mass calcd. for C21H20FN3O4S2, 461.09; m/z found, 462.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.42 (s, 1H), 8.07-8.04 (m, 2H), 7.92 (m, 1H), 7.84 (m, 1H), 7.75 (m, 1H), 7.49 (dd, J=7.5, 1.0, 1H), 7.38-7.31 (m, 1H), 7.29 (dd, J=8.0, 1.6, 1H), 6.74 (s, 2H), 3.25-3.06 (m, 5H), 2.16-2.04 (m, 2H), 2.02-1.86 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 4-((2-bromophenyl)sulfonyl)tetrahydro-2H-thiopyran 1,1-dioxide | BrC1=C(C=CC=C1)S(=O)(=O)C1CCS(CC1)(=O)=O | C11H13BrO4S2
product | 5-{2′-[(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | O=S1(CCC(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)=O | C21H20FN3O4S2
